** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator/xschem/integrator.sch
.subckt integrator Vref VSS VDD RST Vctr VOUT
*.PININFO VSS:I Vref:I Vctr:I VDD:I RST:I VOUT:O
x6 VDD VcrtPP P0 P1 Vctr VSS RST integrator_curstav_inv
x7 VDD VcrtPP P1 P2 Vctr VSS VSS integrator_curstav_inv
x8 VDD VcrtPP P2 P3 Vctr VSS RST integrator_curstav_inv
x9 VDD VcrtPP P3 P4 Vctr VSS VSS integrator_curstav_inv
x10 VDD VcrtPP P4 P0 Vctr VSS RST integrator_curstav_inv
x11 VDD R1 VOUT P1 VSS integrator_phasedetector
x12 VDD R2 VOUT P2 VSS integrator_phasedetector
x13 VDD R3 VOUT P3 VSS integrator_phasedetector
x14 VDD R4 VOUT P4 VSS integrator_phasedetector
x15 VDD R0 VOUT P0 VSS integrator_phasedetector
XM1 VcrtPP Vctr VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
XM3 VcrtPP VcrtPP VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM2 VcrtP VcrtP VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM4 VcrtP Vref VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
x1 VDD VcrtP R0 R1 Vref VSS RST integrator_curstav_inv
x2 VDD VcrtP R1 R2 Vref VSS VSS integrator_curstav_inv
x3 VDD VcrtP R2 R3 Vref VSS RST integrator_curstav_inv
x4 VDD VcrtP R3 R4 Vref VSS VSS integrator_curstav_inv
x5 VDD VcrtP R4 R0 Vref VSS RST integrator_curstav_inv
.ends

* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_curstav_inv/xschem/integrator_curstav_inv.sym #
*+ of pins=7
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_curstav_inv/xschem/integrator_curstav_inv.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_curstav_inv/xschem/integrator_curstav_inv.sch
.subckt integrator_curstav_inv VDD VcrtP A B VcrtN VSS RST
*.PININFO VDD:I VSS:I A:I B:O VcrtP:I VcrtN:I RST:I
XM1 B A net2 VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
XM2 net2 VcrtN VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
XM3 B A net1 VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM4 net1 VcrtP VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM5 B VDD VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM6 B RST VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
.ends


* expanding   symbol:
*+  /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_phasedetector/xschem/integrator_phasedetector.sym # of pins=5
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_phasedetector/xschem/integrator_phasedetector.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_phasedetector/xschem/integrator_phasedetector.sch
.subckt integrator_phasedetector VDD A VOUT B VSS
*.PININFO A:I B:I VSS:I VDD:I VOUT:O
x1 VDD net2 B A VSS gate_xor
x2 VDD net2 net1 VSS gate_buff_L0d13
XRXOR VOUT net1 sub! rppd w=0.5e-6 l=0.5e-6 m=2 b=0
XRDMY[9] VSS VSS sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
XRDMY[8] VSS VSS sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
XRDMY[7] VSS VSS sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
XRDMY[6] VSS VSS sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
XRDMY[5] VSS VSS sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
XRDMY[4] VSS VSS sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
XRDMY[3] VSS VSS sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
XRDMY[2] VSS VSS sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
XRDMY[1] VSS VSS sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
XRDMY[0] VSS VSS sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_xor/xschem/gate_xor.sym # of pins=5
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_xor/xschem/gate_xor.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_xor/xschem/gate_xor.sch
.subckt gate_xor VDD S B A VSS
*.PININFO VSS:I B:I A:I VDD:I S:O
XM2 net1 A VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM1 S -B net1 VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM4 net2 -A VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM5 S B net2 VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM6 S B net4 VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
XM3 net4 A VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
XM7 S -B net3 VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
XM8 net3 -A VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
x3 VDD A -A VSS gate_inv_L0d13
x1 VDD B -B VSS gate_inv_L0d13
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_buff_L0d13/xschem/gate_buff_L0d13.sym # of pins=4
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_buff_L0d13/xschem/gate_buff_L0d13.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_buff_L0d13/xschem/gate_buff_L0d13.sch
.subckt gate_buff_L0d13 VDD VIN VOUT VSS
*.PININFO VDD:I VIN:I VSS:I VOUT:O
XM1 net1 VIN VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
XM2 net1 VIN VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM3 VOUT net1 VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=3
XM4 VOUT net1 VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=3
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_inv_L0d13/xschem/gate_inv_L0d13.sym # of pins=4
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_inv_L0d13/xschem/gate_inv_L0d13.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_inv_L0d13/xschem/gate_inv_L0d13.sch
.subckt gate_inv_L0d13 VDD VIN VOUT VSS
*.PININFO VDD:I VSS:I VIN:I VOUT:O
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=1
.ends

